US07442696B2
This compound was prepared using General Method 1 (EXAMPLE 1) from 2-amino-6-chlorobenzaldehyde (0.30 g, 1.9 mmol) and cyclopentylmagnesium bromide (2 M in ether, 1.9 mL)) to afford 0.16 g (36%) of (±)-(2-amino-6-chlorophenyl)-cyclopentyl-methanol after flash chromatography (4:1 hexanes:ethyl acetate).

reactant | 2-amino-6-chlorobenzaldehyde | 1.9 mmol, 0.30 g | NC1=C(C=O)C(=CC=C1)Cl | C7H6ClNO
reactant | cyclopentylmagnesium bromide | 2 M, 1.9 mL | C1(CCCC1)[Mg]Br
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (±)-(2-amino-6-chlorophenyl)-cyclopentyl-methanol | 0.16 g, 36% | NC1=C(C(=CC=C1)Cl)C(O)C1CCCC1 | C12H16ClNO
